Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Weight gain, cough, R shoulder pain

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o woman with HFpEF, HTN, CAD w MI ___ s/p DES, T2DM on 
insulin referred in by PCP due to 15 lb weight gain over ___ 
weeks, leg swelling, and dyspnea on exertion. Patient presented 
to her provider ___ few weeks ago with weight gain, bilateral 
pitting edema, and dyspnea on exertion. Provider increased lasix 
dosing at that time to 100mg PO Qday given increased weight and 
edema. Today Ms. ___ presented to clinic again with no 
improvement in her fluid overload symptoms and a worsening 
cough, as well as R shoulder pain following a fall last week.

Patient has 4 steps to the house and 14 steps to the ___ floor 
where she sleeps, which she is able to climb. Sleeps on 1 pillow 
behind head and 3 elevating feet. Notes being able walking 10 
minutes without SOB.  Endorses DOE but does not feel there was a 
significant change in the past 2 weeks. Patient has no home O2 
requirement. Patient reports a 1 pound weight gain each day for 
the past week. Reports mild calf tenderness along with the 
bilateral pitting edema. Patient denies orthopnea, PND, CP, 
diaphoresis, palpitations, hemoptysis, fever, chills, n/v, 
dysuria, diarrhea. 

Patient also reports R shoulder pain following a mechanical fall 
last week, striking her right shoulder after tripping down 2 
steps onto her R shoulder. Denies loss of consciousness or head 
strike. Reports pain is a ___. She has known arthritis of the 
right shoulder with baseline pain. Xray at outpatient clinic 
showed no fracture/dislocation and she was given tylenol-codeine 
300-30 Q6hrs prn pain, which she has been taking to moderate 
effect.

 
Past Medical History:
HTN
Hypercholestrolemia
Hypothyroidism
MI ___ - acute anterior MI. At CATH, she has a right dominant 
system. The left main was free of any lesions. The LAD had 
discrete 99% lesion in the proximal segment that was stented to 
0% residual. The left circumflex coronary artery had a discrete 
80% lesion. The right coronary artery had a mid 35% lesion and a 
proximal 40% lesion. LVEF: 50% (___)
Coronary angioplasty w/ ___ reflux
CKD Stage III
CHF w/ normal EF
RLD ___ obesity
Sleep apnea
Asthma
Arthritis
Stress incontinence

 
Social History:
___
Family History:
Both parents passed away from ___.  Family history of diabetes. 

 
Physical Exam:
ADMISSION: 
Vitals:  T 98.3 BP 138/56 HR 74 RR 18 O2 sat. 98 on 2L
General: NAD, AOx3, lying in bed, speaking in full sentences
HEENT:  Supple neck, JVP elevated 4-5 cm over clavicle when 
sitting upright. No nuchal rigidity.  
CV: distant heart sounds, RRR, no m/r/g appreciated, no carotid 
bruits
Lungs: poor aeration, L basilar rales, diffuse expiratory 
wheezes bilaterally
Abdomen: Soft, nondistended, nontender, normoactive bowel sounds
Ext: Bilaterally warm, 3+ edema to knees, bilateral mild calf 
tenderness, 1+ ___, no cyan/clubbing  
Neuro:  AOx3
Skin: bilateral stasis dermatitis 

DISCHARGE: 
Vitals:  T 
General: NAD, AOx3, lying in bed, speaking in full sentences
HEENT:  Supple neck, JVP not appreciated. No nuchal rigidity.  
CV: distant heart sounds, RRR, no m/r/g appreciated, no carotid 
bruits
Lungs: poor aeration,  diffuse expiratory wheezes bilaterally, 
no crackles, rhales, or rhonci
Abdomen: Soft, nondistended, nontender, normoactive bowel sounds
Ext: Bilaterally warm, ___ edema to knees, bilateral mild calf 
tenderness, 1+ ___, no cyan/clubbing  
Neuro:  AOx3
Skin: bilateral stasis dermatitis 

 
Pertinent Results:
ADMISSION:
=============
___ 03:40PM BLOOD WBC-12.3* RBC-3.56* Hgb-10.3* Hct-33.5* 
MCV-94 MCH-28.9 MCHC-30.7* RDW-16.6* RDWSD-57.1* Plt ___
___ 03:40PM BLOOD proBNP-2208*
___ 07:00AM BLOOD Calcium-9.5 Phos-5.4* Mg-2.2
___ 07:00AM BLOOD Glucose-109* UreaN-56* Creat-1.7* Na-143 
K-4.2 Cl-100 HCO3-32 AnGap-15

RELEVANT COURSE LABS:
==================
___ 07:30AM BLOOD Glucose-233* UreaN-69* Creat-2.2* Na-138 
K-4.1 Cl-95* HCO3-29 AnGap-18
___ 05:20AM BLOOD Glucose-101* UreaN-73* Creat-2.0* Na-138 
K-4.0 Cl-95* HCO3-29 AnGap-18
___ 07:55AM BLOOD Glucose-88 UreaN-77* Creat-1.8* Na-139 
K-4.5 Cl-92* HCO3-34* AnGap-18
___ 06:45AM BLOOD Glucose-119* UreaN-77* Creat-1.6* Na-142 
K-3.8 Cl-90* HCO3-39* AnGap-17
___ 06:55AM BLOOD Glucose-187* UreaN-80* Creat-1.6* Na-137 
K-3.9 Cl-86* HCO3-39* AnGap-16
___ 05:15AM BLOOD Glucose-104* UreaN-88* Creat-1.9* Na-137 
K-3.8 Cl-84* HCO3-37* AnGap-20
___ 03:11PM BLOOD Glucose-222* UreaN-88* Creat-2.4* Na-131* 
K-4.5 Cl-82* HCO3-32 AnGap-22*
___ 05:40AM BLOOD Glucose-76 UreaN-97* Creat-2.3* Na-132* 
K-3.9 Cl-82* HCO3-35* AnGap-19
___ 05:15AM BLOOD proBNP-1207*
___ 08:37AM BLOOD %HbA1c-9.5* eAG-226*

IMAGING:
=========
___: Non-Contrast Chest CT
1. No diffuse lung disease is identified to explain patient's 
symptoms. Focal area of interstitial fibrosis in the right 
middle lobe may be a sequel to prior infection.
2. No pulmonary edema or pleural effusion.
3. Heavy coronary artery calcifications. Moderate calcification 
of aortic valve and possibly mitral annulus.
4. Benign, right adrenal adenoma.

___: ECHO
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Overall left ventricular 
systolic function is mildly depressed (LVEF= 40-45%) secondary 
to akinesis of the apex and distal anterior septum. No masses or 
thrombi are seen in the left ventricle. Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.
Impression: Mild regional and global left ventricular systolic 
dysfunction c/w CAD. Increased LV filling pressure. Trace aortic 
regurgitation. Mild pulmonary artery systolic hypertension

LABS ON DISCHARGE:
==============
___ 05:40AM BLOOD WBC-13.3* RBC-3.67* Hgb-10.3* Hct-33.4* 
MCV-91 MCH-28.1 MCHC-30.8* RDW-15.9* RDWSD-53.1* Plt ___
___ 02:55PM BLOOD Glucose-262* UreaN-94* Creat-2.2* Na-128* 
K-4.1 Cl-81* HCO3-32 AnGap-19
___ 02:55PM BLOOD Calcium-9.5 Phos-4.5 Mg-2.___ y/o woman with a history of T2DM, HFpEF presenting with 15 lb 
weight gain, leg swelling, and cough over the last 2 weeks. 

#CHF: On admission patient's hx, leg swelling, CXR were all 
consistent with volume overload. Acute exacerbation thought to 
be due to diet/medication non-compliance. No evidence of acute 
MI given symptoms, EKG, and negative cardiac enzymes. ___ 
showed mild systolic dysfunction with an EF 40-45% (prior 55%), 
and mild PAH in setting of left dysfunction. Aside from diuresis 
patient was placed on a low salt diet, and 1L fluid restriction. 
Her discharge weight was 101.8.

#Hypoxia: Pt did not have home O2 PTA. Her cough and lung exam 
have improved w standing duonebs, but was still desatting w 
ambulation (87-89). Most recent PFTs were ___ and showed a more 
restrictive pattern than obstructive. CT Chest ___ without 
intersitial disease or COPD that would explain hypoxia. Likely 
multifactorial, w reduced chest wall compliance, CHF related 
effusions, and RAD playing a role. Patient needs an OSA 
screening/treatment at home but adamantly refuses (says she 
can't sleep with it). She will be discharged with prescription 
for 1L O2 on ambulation, and ___ for endurance.

#Asthma: Initially diffusely wheezy on exam and complaining of 
cough, very responsive to duonebs, continued throughout 
admission and she was discharged on home fluticasone and 
albuterol. Also had prn robitussin. Was well controlled during 
___ testing with ambulatory desats.

___: Patient initially had a creatinine bump to 2.2, which 
improved with diuresis back to her baseline of 1.6. Upon 
starting bumex 3mg BID she then bumped again to 2.4. Likely 
overly aggressive, was held and was trending down again on 
discharge (2.2). Needs follow up with BMP 2 days after discharge 
to ensure continues to trend down, and will go with 1mg bumex 
BID.

#T2DM: 
- home Glargine + Lispro were continued

#CAD: 
- continued home Atorvastatin 40mg qD
- continued home ASA 81mg QDay

#R shoulder pain: negative x-ray s/p fall 1 week ago w/ full 
ROM.  Most likely related to arthritis and exacerbated by fall. 
Xray negative for dislocation or fracture. Standing tylenol and 
oxycodone PRN helped manage pain.

#Anemia: Normocytic anemia with MCV 94. HgB near baseline of 
10.5 and remained stable.

TRANSITIONAL ISSUES:
- Dry weight 101kg, Dry BNP 1200
- needs BMP ___
- Lasix d/c'd, 
- STARTED Bumex 1mg PO BID to start ___
- 2L fluid restriction prescribed
- ___ physical therapy visits anticipated as an outpatient
- START NEW Home O2, Needs 1L with ambulation (obstructive and 
restrictive process)
- ___ Recommendations:
    -Lantus/Humalog D/C'd
    - NEW INSULIN: ___ 75U in AM, 50U with dinner started
- Had foley inpatient, no urinary sx but slight leukocytosis at 
discharge, low threshold for outpatient UA if symptomatic.
- ___ Echo with decline in EF: 40-45% (from 55% ___
- Please be aware benign R adrenal adenoma was noted on chest CT 
and follow if indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 100 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Glargine 64 Units Breakfast
Glargine 30 Units Bedtime
Humalog 35 Units Breakfast
Humalog 35 Units Lunch
Humalog 35 Units Dinner
4. Losartan Potassium 50 mg PO DAILY 
5. Calcium Carbonate 250 mg PO BID 
6. Oxybutynin 5 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Levothyroxine Sodium 200 mcg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Acetaminophen w/Codeine 1 TAB PO Q6H:PRN pain 
11. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 
12. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze/SOB/cough 
13. Fluticasone Propionate 110mcg 2 PUFF IH BID 
14. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze/SOB/cough 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Calcium Carbonate 250 mg PO BID 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. ___ 75 Units Breakfast
___ 50 Units Dinner
RX *insulin NPH and regular human [Humulin ___ KwikPen] 100 
unit/mL (70-30) AS DIR 75 Units before BKFT; 50 Units before 
DINR; Disp #*10 Syringe Refills:*0
7. Levothyroxine Sodium 200 mcg PO DAILY 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain 
10. Omeprazole 40 mg PO DAILY 
11. Oxybutynin 5 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Senna 8.6 mg PO BID 
14. Bumetanide 1 mg PO BID 
Start taking this ___ 
RX *bumetanide 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
15. Acetaminophen w/Codeine 1 TAB PO Q6H:PRN pain 
16. Outpatient Lab Work
Please go to At___ on ___ to have labs drawn.

BMP (Na/K/Cl/Bicarb/BUN/Cr/glucose) - ICD-9: 584.9, Dr. ___ 
___ - FAX ___, cc PCP ___ - FAX 
___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Decompensated congestive heart failure with decreased ejection 
fraction (EF 40%)
Reactive airway disease
Diabetes Mellitus Type II with Insulin Dependence

Secondary:
Coronary artery disease
Morbid Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

___ were admitted for leg swelling, weight gain, and fatigue, as 
well as pain in your shoulder. Your blood tests and chest xray 
and echocardiogram all showed that ___ were retaining a lot of 
fluid because of your heart failure. ___ were given IV diuretics 
for a few days and then transitioned to oral medications, and 
your symptoms improved. 

- ___ will be taking a new medication called bumex instead of 
lasix.

Besides having the extra fluid removed, ___ also received 
breathing treatments, which helped your symptoms. 

- ___ are being discharged with an oxygen tank to use when ___ 
walk.

- Physical therapy evaluated ___, and will continue to see ___ 
at home for a few visits until ___ are stronger. 

- The ___ also met with ___ to adjust your 
insulin regimen because your blood sugar was too high on what 
___ were taking before. Your kidney function was decreased after 
we removed fluid from around your heart. This will improve with 
time.

Please weigh yourself daily and call your cardiologist if ___ 
weight increases by more than 3 pounds. Please follow up with 
your providers as scheduled.

KEY:
- Start Bumetanide 1mg twice per day on ___
- Stop Lasix/Furosemide
- Hold Losratan until a doctor tells ___ to re start it
- Start the new insulin plan in the attached prescriptions

Thank ___, it was a pleasure taking care of ___!
Your ___ Care Team
 
Followup Instructions:
___